US08034812B2
Production of N-[6-(3-{[(2,4-dimethyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
To a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol) in pyridine (4.0 mL) was added 2,4-dimethyl-1,3-thiazole-5-sulfonyl chloride (157 mg, 0.74 mmol), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1→ethyl acetate alone) and washed with hexane/ethyl acetate to give the title compound (196 mg, 64%) as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 2,4-dimethyl-1,3-thiazole-5-sulfonyl chloride | 0.74 mmol, 157 mg | CC=1SC(=C(N1)C)S(=O)(=O)Cl | C5H6ClNO2S2
reactant | Water | O | H2O
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(3-{[(2,4-dimethyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 196 mg, 64% | CC=1SC(=C(N1)C)S(=O)(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C22H22N6O4S2
